US04514416
While being cooled in ice, a solution of 4.5 g of 2-chloro-4-cyanophenol in 50 ml of methanol was saturated with dried gaseous hydrogen chloride (HCl). The solution was left standing overnight at room temperature and mixed with 100 ml of ethyl ether to precipitate crystals which were collected by filtration to obtain 4.0 g of 2-chloro-4-methoxyiminomethylphenol hydrochloride.

reactant | 2-chloro-4-cyanophenol | 4.5 g | ClC1=C(C=CC(=C1)C#N)O | C7H4ClNO
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 2-chloro-4-methoxyiminomethylphenol hydrochloride | 4.0 g | Cl.ClC1=C(C=CC(=C1)C=NOC)O | InChI=1S/C8H8ClNO2.ClH/c1-12-10-5-6-2-3-8(11)7(9)4-6;/h2-5,11H,1H3;1H
